US06794397B2
2,6-Dichloro-N-(4-methoxy-2-nitrophenyl)-4-pyridinecarboxamide
The title compound was prepared from 2,6-dichloropyridine-4-carbonyl chloride and 4-methoxy-2-nitroaniline and was obtained as a yellow solid as described in Example 1. 1H NMR (CDCl3): 11.12 (s, 1H), 8.78 (d, J=9.3, 1H), 7.77 (d, J=3.0, 1H), 7.75 (s, 2H), 7.35-7.31 (m, 1H), 3.91 (s, 3H).

reactant | 2,6-dichloropyridine-4-carbonyl chloride | ClC1=NC(=CC(=C1)C(=O)Cl)Cl | C6H2Cl3NO
reactant | 4-methoxy-2-nitroaniline | COC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O3
product | 2,6-Dichloro-N-(4-methoxy-2-nitrophenyl)-4-pyridinecarboxamide | ClC1=NC(=CC(=C1)C(=O)NC1=C(C=C(C=C1)OC)[N+](=O)[O-])Cl | C13H9Cl2N3O4
